US07297810B2
A mixture containing 5.0 grams of 2,7-dibromofluorene, 3.1 grams of sodium hydroxide and 0.35 grams of Benzyltriethylammonium chloride in 50 ml of dimethylsulfoxide was stirred and to it was added 9.7 grams of the tetrahydropyranyl ether of 2-bromoethanol. The temperature rose slowly to 50° C. The temperature was maintained at 35° C. for 1 hr after which the mixture was added to 100 ml of water and 50 ml of ethyl acetate and 50 ml hexane. The organic layer was removed washed 2× with 100 ml of water and dried over sodium sulfate. The solvent was removed and 150 ml of ethanol added followed by 0.5 grams p-toluene sulfonic acid. The mixture was stirred at 70° C. for 30 min. The mixture was cooled and treated with aqueous potassium carbonate to ˜pH8. The solvent was removed and the residue treated with 50 ml of 1;1 ethyl acetate:hexane and 25 ml of water the solid was filtered and washed with water. Recrystallization from 1:1 ethyl acetate hexane to give 4.5 grams of 2-[2,7-dibromo-9-(2-hydroxy-ethyl)-9H-fluoren-9-yl]-ethanol which was esterified by the process described in example 1 to give 3.8 grams of Acrylic acid 2-[9-(2-acryloyloxy-ethyl)-2,7-dibromo-9H-fluoren-9-yl]-ethyl ester(4). This product was verified by NMR analysis to be present and pure.

reactant | 2,7-dibromofluorene | 5.0 grams | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | sodium hydroxide | 3.1 grams | [OH-].[Na+]
reactant | tetrahydropyranyl ether | 9.7 grams | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | 2-bromoethanol | BrCCO | C2H5BrO
catalyst | Benzyltriethylammonium chloride | 0.35 grams | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | hexane | 50 ml | CCCCCC | C6H14
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-[2,7-dibromo-9-(2-hydroxy-ethyl)-9H-fluoren-9-yl]-ethanol | 4.5 grams | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCO)CCO | C17H16Br2O2
